US06992085B2
Step A: 4-(4-Bromobutoxy)-2-methoxybenzonitrile
The procedure is as for Example 53, Step A, using as substrate 4-hydroxy-2-methoxy-benzonitrile and 1,4-dibromobutane.

reactant | 4-hydroxy-2-methoxy-benzonitrile | OC1=CC(=C(C#N)C=C1)OC | C8H7NO2
reactant | 1,4-dibromobutane | BrCCCCBr | C4H8Br2
product | 4-(4-Bromobutoxy)-2-methoxybenzonitrile | BrCCCCOC1=CC(=C(C#N)C=C1)OC | C12H14BrNO2
